US08372874B2
Step 3: Synthesis of [3-(2-Hydroxy-1,1-dimethyl-ethyl)-isoxazol-5-yl]carbamic acid tert-butyl ester
A solution of 933.0 mg (2.74 mmol) of {3-[1,1-dimethyl-2-(tetrahydro-pyran-2-yloxy)-ethyl]-isoxazol-5-yl}-carbamic acid tert-butyl ester and 103.0 mg (0.41 mmol) of pyridinium p-toluenesulfonate in ethanol (8.0 mL) is stirred at 65° C. for 1 h. After this time, the reaction mixture is concentrated under reduced pressure. Purification by flash chromatography on silica gel using ethyl acetate/heptane provides 602.0 mg of the title compound. Yield: 85.7%. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.3 (6H, s), 1.55 (9H, s), 2.35 (1H, t, J=8.0 Hz), 3.7 (2H, d, J=8.0 Hz), 6.5 (1H, s), 7.3 (1H, s).

reactant | {3-[1,1-dimethyl-2-(tetrahydro-pyran-2-yloxy)-ethyl]-isoxazol-5-yl}-carbamic acid tert-butyl ester | 2.74 mmol, 933.0 mg | C(C)(C)(C)OC(NC1=CC(=NO1)C(COC1OCCCC1)(C)C)=O | C17H28N2O5
reactant | pyridinium p-toluenesulfonate | 0.41 mmol, 103.0 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | ethanol | 8.0 mL | C(C)O | C2H6O
product | [3-(2-Hydroxy-1,1-dimethyl-ethyl)-isoxazol-5-yl]carbamic acid tert-butyl ester | 602.0 mg, Yield: 85.7% | C(C)(C)(C)OC(NC1=CC(=NO1)C(CO)(C)C)=O | C12H20N2O4
